US05726187
N-[(1-Butyl-4-piperidinyl)methyl]5-chloro-2-methylbenzoxazole-7-carboxamide
5-Chloro-2-methylbenzoxazole-7-carboxylic acid (Ger. Offen. 2,225,544) is converted to its acid chloride by treatment with oxalyl chloride. The acid chloride is treated with N-(1-butyl-4-piperidinyl)methylamine in the presence of triethylamine to afford the title compound.

reactant | 5-Chloro-2-methylbenzoxazole-7-carboxylic acid | ClC=1C=C(C2=C(N=C(O2)C)C1)C(=O)O | C9H6ClNO3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(1-butyl-4-piperidinyl)methylamine | C(CCC)N1CCC(CC1)CN | C10H22N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[(1-Butyl-4-piperidinyl)methyl]5-chloro-2-methylbenzoxazole-7-carboxamide | C(CCC)N1CCC(CC1)CNC(=O)C1=CC(=CC=2N=C(OC21)C)Cl | C19H26ClN3O2
